** sch_path: /home/ttuser/ECG_FrontEnd/xschem/ecgF.sch
.subckt ecgF INp OUT Vref INm VDD VSS ref OUTDRL
*.PININFO INp:I INm:I OUT:O Vref:I OUTDRL:O ref:I VDD:B VSS:B
XR3 Vcm net5 VSS sky130_fd_pr__res_high_po_0p35 L=0.7 mult=1 m=1
XR15 Vcm net6 VSS sky130_fd_pr__res_high_po_0p35 L=0.7 mult=1 m=1
XR18 net5 net11 VSS sky130_fd_pr__res_xhigh_po_0p35 L=11 mult=1 m=1
XR20 net10 net9 VSS sky130_fd_pr__res_high_po_5p73 L=2.7 mult=1 m=1
XR17 net12 net1 VSS sky130_fd_pr__res_xhigh_po_0p35 L=11 mult=1 m=1
XR1 net11 net12 VSS sky130_fd_pr__res_xhigh_po_0p35 L=11 mult=1 m=1
XR2 net6 net13 VSS sky130_fd_pr__res_xhigh_po_0p35 L=11 mult=1 m=1
XR21 net14 net2 VSS sky130_fd_pr__res_xhigh_po_0p35 L=11 mult=1 m=1
XR24 net13 net14 VSS sky130_fd_pr__res_xhigh_po_0p35 L=11 mult=1 m=1
XR4 net7 net4 VSS sky130_fd_pr__res_xhigh_po_0p35 L=1.8 mult=1 m=1
XR7 net8 net3 VSS sky130_fd_pr__res_xhigh_po_0p35 L=1.8 mult=1 m=1
XR11 net4 net15 VSS sky130_fd_pr__res_xhigh_po_0p35 L=11 mult=1 m=1
XR19 net16 net17 VSS sky130_fd_pr__res_xhigh_po_0p35 L=11 mult=1 m=1
XR25 net15 net16 VSS sky130_fd_pr__res_xhigh_po_0p35 L=11 mult=1 m=1
XR26 net17 OUT VSS sky130_fd_pr__res_xhigh_po_0p35 L=11 mult=1 m=1
XR12 net3 net18 VSS sky130_fd_pr__res_xhigh_po_0p35 L=11 mult=1 m=1
XR27 net19 net20 VSS sky130_fd_pr__res_xhigh_po_0p35 L=11 mult=1 m=1
XR28 net18 net19 VSS sky130_fd_pr__res_xhigh_po_0p35 L=11 mult=1 m=1
XR29 net20 Vref VSS sky130_fd_pr__res_xhigh_po_0p35 L=11 mult=1 m=1
XC2 net9 OUTDRL sky130_fd_pr__cap_mim_m3_1 W=30 L=30 m=6
XR16 net9 net21 VSS sky130_fd_pr__res_xhigh_po_0p35 L=11 mult=1 m=1
XR30 net22 net23 VSS sky130_fd_pr__res_xhigh_po_0p35 L=11 mult=1 m=1
XR32 net21 net22 VSS sky130_fd_pr__res_xhigh_po_0p35 L=11 mult=1 m=1
XR34 net23 OUTDRL VSS sky130_fd_pr__res_xhigh_po_0p35 L=11 mult=1 m=1
x16 Vb VDD VSS Vc2 net1 INp net5 Vc1 Vc OFCB
x1 Vb VDD VSS Vc2 net2 INm net6 Vc1 Vc OFCB
x2 Vb VDD VSS Vc2 net7 net1 net7 Vc1 Vc OFCB
x3 Vb VDD VSS Vc2 net8 net2 net8 Vc1 Vc OFCB
x4 Vb VDD VSS Vc2 OUT net3 net4 Vc1 Vc OFCB
x5 Vb VDD VSS Vc2 net10 Vcm net10 Vc1 Vc OFCB
x6 Vb VDD VSS Vc2 OUTDRL ref net9 Vc1 Vc OFCB
XR35 Vb VDD VSS sky130_fd_pr__res_xhigh_po_0p35 L=5 mult=1 m=1
XR36 VSS Vb VSS sky130_fd_pr__res_xhigh_po_0p35 L=13.2 mult=1 m=1
XR37 Vc VDD VSS sky130_fd_pr__res_xhigh_po_0p35 L=5 mult=1 m=1
XR38 VSS Vc VSS sky130_fd_pr__res_xhigh_po_0p35 L=3.07 mult=1 m=1
XR39 Vc1 VDD VSS sky130_fd_pr__res_xhigh_po_0p35 L=5 mult=1 m=1
XR40 VSS Vc1 VSS sky130_fd_pr__res_xhigh_po_0p35 L=13.2 mult=1 m=1
XR41 Vc2 VDD VSS sky130_fd_pr__res_xhigh_po_0p35 L=5 mult=1 m=1
XR42 VSS Vc2 VSS sky130_fd_pr__res_xhigh_po_0p35 L=1.6 mult=1 m=1
.ends

* expanding   symbol:  OFCB.sym # of pins=9
** sym_path: /home/ttuser/ECG_FrontEnd/xschem/OFCB.sym
** sch_path: /home/ttuser/ECG_FrontEnd/xschem/OFCB.sch
.subckt OFCB Vb VDD GND Vc2 OUT INp INm Vc1 Vc
*.PININFO VDD:B GND:B OUT:O INp:I INm:I Vc2:B Vc1:B Vc:B Vb:B
XM11 S Vb VDD VDD sky130_fd_pr__pfet_01v8_lvt L=1 W=60 nf=6 m=2
XM1 D1 INp S S sky130_fd_pr__pfet_01v8_lvt L=10 W=25 nf=2 m=2
XM2 D2 INm S S sky130_fd_pr__pfet_01v8_lvt L=10 W=25 nf=2 m=2
XM3 OUT Vc1 D2 GND sky130_fd_pr__nfet_01v8_lvt L=1 W=4 nf=1 m=1
XM4 D2 Vc GND GND sky130_fd_pr__nfet_01v8_lvt L=1 W=2.8 nf=1 m=1
XM5 D1 Vc GND GND sky130_fd_pr__nfet_01v8_lvt L=1 W=2.8 nf=1 m=1
XM6 G Vc1 D1 GND sky130_fd_pr__nfet_01v8_lvt L=1 W=4 nf=1 m=1
XM7 G Vc2 D9 D9 sky130_fd_pr__pfet_01v8_lvt L=2.23 W=4 nf=1 m=1
XM9 D9 G VDD VDD sky130_fd_pr__pfet_01v8_lvt L=2.23 W=3.85 nf=1 m=1
XM8 D10 G VDD VDD sky130_fd_pr__pfet_01v8_lvt L=2.23 W=3.85 nf=1 m=1
XM10 OUT Vc2 D10 D10 sky130_fd_pr__pfet_01v8_lvt L=2.23 W=4 nf=1 m=1
XC1 OUT D1 sky130_fd_pr__cap_mim_m3_1 W=22.4 L=22.4 m=2
.ends

.end
